US08563575B2
CDI (2.251 g) was added to a solution of N3-methylpyridine-2,3-diamine (1.14 g) in THF (dry) (50 ml) at room temperature. The mixture was stirred at room temperature under a dry atmosphere (CaCl2 tube) over weekend. The reaction mixture was concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-100% EtOAc in hexane) to give 1-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (1.1 g) as a white solid.

reactant | CDI | 2.251 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N3-methylpyridine-2,3-diamine | 1.14 g | CNC=1C(=NC=CC1)N | C6H9N3
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 1.1 g | CN1C(NC2=NC=CC=C21)=O | C7H7N3O
